US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4-[6-(trifluoromethyl)-3-pyridyl]benzamide hydrochloride
Operations similar to those of Example 1 were conducted using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 4-[6-(trifluoromethyl)-3-pyridyl]benzenecarboxylic acid. The resulting solid was dissolved in ethyl acetate, followed by addition of 4N hydrochloric acid-ethyl acetate solution and concentration under reduced pressure. The title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 4-[6-(trifluoromethyl)-3-pyridyl]benzenecarboxylic acid | FC(C1=CC=C(C=N1)C1=CC=C(C=C1)C(=O)O)(F)F | C13H8F3NO2
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4-[6-(trifluoromethyl)-3-pyridyl]benzamide hydrochloride | Cl.C1(CC1)C=1N=C2N(C=C(C=C2)NC(C2=CC=C(C=C2)C=2C=NC(=CC2)C(F)(F)F)=O)C1C | InChI=1S/C24H19F3N4O.ClH/c1-14-22(16-4-5-16)30-21-11-9-19(13-31(14)21)29-23(32)17-6-2-15(3-7-17)18-8-10-20(28-12-18)24(25,26)27;/h2-3,6-13,16H,4-5H2,1H3,(H,29,32);1H
